US07655671B2
Synthesis of 17-cyclopropylmethyl-4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride (compound 3.HCl).
A mixture of 4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride (1.5 g, 3.57 mmol), potassium carbonate (3.00 g, 21.7 mmol) and cyclopropylmethylbromide (1.0 ml, 6.62 mmol) in water-free N,N-dimethylformamide (10 ml) was stirred for 4 h under exclusion of moisture and under nitrogen at 80° C. (bath temperature). After filtration from the inorganic residue, which was washed three times each time with 10 ml dichloromethane, the filtrate was evaporated down under reduced pressure. The oily residue was dissolved in 50 ml dichloromethane, washed with water (3×50 ml) and saturated sodium chloride solution (4×50 ml), dried over sodium sulphate and evaporated down. The evaporation residue (1.42 g of yellow oil) was purified by column chromatography (silica gel; CH2Cl2/MeOH/conc. NH4OH 250:2:0.5), the oily evaporation residue dissolved in 50 ml ether and precipitated by the addition of etherial HCl up to the acidic reaction. Yield: 0.60 g (53%) of the compound 3.HCl as colourless crystals. Fp. 130-133° C.; MS (EI): 473 (M+); IR (KBr): 1725 (C═O) cm−1; 1H-NMR (DMSO-d6, δ in ppm): δ 8.30 (s, wide, HN+), 7.31-7.18 (m, 5 arom. H), 6.88 (d, 1 arom. H, J=8.4 Hz), 6.78 (d, 1 arom. H, J=8.4 Hz), 4.96 (s, CH-5), 3.81 (s, CH3O), 0.80-0.40 (m, 5 cyclopropyl H).

reactant | 4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride | 3.57 mmol, 1.5 g | Cl.O1C2=C(C=CC=3C[C@@H]4[C@@]5(CCC([C@H]1[C@@]5(C23)CCN4)=O)OCCCC4=CC=CC=C4)OC
reactant | potassium carbonate | 21.7 mmol, 3.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropylmethylbromide | 6.62 mmol, 1.0 ml | C1(CC1)CBr | C4H7Br
solvent | water | 10 ml | O | H2O
product | 17-cyclopropylmethyl-4,5α-epoxy-3-methoxy-14β-(3-phenylpropyloxy)morphinan-6-one hydrochloride | Cl.C1(CC1)CN1[C@H]2[C@@]3(CCC([C@H]4[C@@]3(C=3C(=C(C=CC3C2)OC)O4)CC1)=O)OCCCC1=CC=CC=C1 | InChI=1S/C30H35NO4.ClH/c1-33-24-12-11-22-18-25-30(34-17-5-8-20-6-3-2-4-7-20)14-13-23(32)28-29(30,26(22)27(24)35-28)15-16-31(25)19-21-9-10-21;/h2-4,6-7,11-12,21,25,28H,5,8-10,13-19H2,1H3;1H/t25-,28+,29+,30-;/m1./s1
